US08304577B2
To a solution of (2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethyl acetate (358 mg, 0.870 mmol) in methanol (5 mL) at 0° C. was added sodium methoxide (14.0 mL, 7.00 mmol). The cooling bath was removed and the mixture was stirred at room temperature for 20 min. Saturated aqueous NH4Cl (5 mL) was added and the methanol was removed on the rotovapor. The mixture was transferred to a separatory funnel containing saturated aqueous NH4Cl solution (20 mL). The aqueous layer was extracted with ethyl acetate (4×20 mL). The combined organic layers were washed with brine (20 mL), dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (40%→75% ethyl acetate in hexanes; 25 g column) to afford (2S)-N-((1R)-2-hydroxy-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (269 mg, 84% yield) as a colorless solid: 1H NMR (400 MHz, CDCl3) δ 7.29-7.36 (m, 2H), 7.22-7.29 (m, 3H), 6.94 (d, J=8.6 Hz, 2H), 6.76 (d, J=8.6 Hz, 2H), 6.01 (d, J=6.8 Hz, 1H), 4.89-4.97 (m, 1H), 3.76 (d, J=4.8 Hz, 2H), 3.71-3.75 (m, 1H), 3.59-3.68 (m, 2H), 2.46 (br. s., 1H), 1.84-1.95 (m, 1H), 1.50 (d, J=7.1 Hz, 3H), 1.25-1.48 (m, 3H), 1.13-1.22 (m, 1H), 0.97 (d, J=6.8 Hz, 3H), 0.90 (t, J=7.3 Hz, 3H); LRMS (ESI) m/e 370.2 [(M+H)+, calcd for C23H32NO3 370.2].

reactant | (2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethyl acetate | 0.870 mmol, 358 mg | C(C)(=O)OC[C@H](NC([C@@H](C)C1=CC=CC=C1)=O)C1=CC=C(C=C1)OCC(CCC)C | C25H33NO4
reactant | sodium methoxide | 7.00 mmol, 14.0 mL | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (2S)-N-((1R)-2-hydroxy-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 269 mg, 84% yield | OC[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C23H31NO3
